US08003798B2
18. Acetic acid (2RS,4aRS,10bRS)-6-(2,6-dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-2-yl ester
1.67 g of phosphorus pentachloride are suspended in 5 ml of dichloromethane. 1.227 g of crude acetic acid (1RS,3RS,4RS)-4-{[1-(2,6-dimethoxy-pyridin-3-yl)methanoyl]amino}-3-(3-ethoxy-4-methoxyphenyl)cyclohexyl ester (compound Al) dissolved in 15 ml of dichloromethane are added and the reaction mixture stirred at room temperature over night. The reaction mixture is cooled with an ice bath and 20 ml of triethylamine are added, than cautiously 10 ml of water with vigorous stirring. The organic layer is separated, concentrated and the crude product purified by flash chromatography to give 715 mg of the title compound.

reactant | phosphorus pentachloride | 1.67 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | acetic acid (1RS,3RS,4RS)-4-{[1-(2,6-dimethoxy-pyridin-3-yl)methanoyl]amino}-3-(3-ethoxy-4-methoxyphenyl)cyclohexyl ester | 1.227 g | COC1=NC(=CC=C1C(=O)NC1C(CC(CC1)OC(C)=O)C1=CC(=C(C=C1)OC)OCC)OC | C25H32N2O7
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Acetic acid (2RS,4aRS,10bRS)-6-(2,6-dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-2-yl ester | 715 mg | COC1=NC(=CC=C1C1=NC2CCC(CC2C2=CC(=C(C=C12)OC)OCC)OC(C)=O)OC | C25H30N2O6
